US09376401B2
Preparation of methyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzoate (Compound 2)
A microwave vial was charged with (4-(methoxycarbonyl)phenyl)boronic acid (70.1 mg, 0.390 mmol), 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (100 mg, 0.325 mmol), aqueous Na2CO3 (1 M, 1.298 mL, 1.298 mmol), and Pd(PPh3)4 (37.5 mg, 0.032 mmol). The reaction vial was capped and evacuated/backfilled with nitrogen gas (3×). DME (2 mL) was added, the vial was capped, heated at 100° C. for 15 minutes (min) in a Biotage Initiator® microwave reactor with external IR-sensor temperature monitoring from the side of the vessel. The reaction mixture was cooled to RT, and diluted with CH2Cl2 (3 mL) and water. The organic and aqueous phase was separated with a phase separator, and the organics were concentrated in vacuo. Purification via flash column chromatography using EtOAc/hexanes as eluent yielded the title compound as a white solid (62 mg, 52%): 1H NMR (400 MHz, CDCl3) δ 8.60 (s, 1H), 8.28 (m, 2H), 8.15 (m, 2H), 7.81 (m, 2H), 7.41 (m, 2H), 3.96 (s, 3H); 19F NMR (376 MHz, CDCl3) δ −58.02; ESIMS m/z 364 ([M+H]+).

reactant | (4-(methoxycarbonyl)phenyl)boronic acid | 0.390 mmol, 70.1 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | 3-bromo-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.325 mmol, 100 mg | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C9H5BrF3N3O
reactant | Na2CO3 | 1.298 mmol, 1 M, 1.298 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 2 mL | COCCOC | C4H10O2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.032 mmol, 37.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)benzoate | 62 mg, 52% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C(=O)OC)C=C1)(F)F | C17H12F3N3O3
